* File: clkgen.pex.spi.pex
* Created: Mon Oct 30 21:28:24 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_CLKGEN_TRIGGER 5 9 22
c0 18 0 0.873982f
c1 15 0 0.109512f
c2 13 0 0.14346f
c3 9 0 0.27791f
c4 5 0 0.307218f
r5 18 22 0.57005
r6 18 19 8
r7 13 19 0.0752128
r8 12 15 6.39574
r9 12 13 13.2552
r10 7 15 4.25716
r11 7 9 77.85
r12 3 15 4.25716
r13 3 5 92.7
.ends

.subckt PM_CLKGEN_NET15 5 8 32 33 37
c0 40 0 0.160371f
c1 37 0 0.065065f
c2 36 0 0.698968f
c3 27 0 0.124333f
c4 16 0 0.21909f
c5 14 0 0.102857f
c6 12 0 0.141136f
c7 8 0 0.339625f
c8 3 0 0.103783f
r9 39 40 4.08318
r10 37 39 1.143
r11 35 36 2.72212
r12 33 35 0.768
r13 32 35 0.762
r14 30 31 8
r15 28 36 0.585
r16 27 30 0.000175
r17 27 28 0.00871254
r18 26 40 0.207
r19 26 27 0.12425
r20 16 31 0.22035
r21 16 17 8
r22 12 17 0.0752128
r23 11 14 6.20426
r24 11 12 13.2552
r25 6 14 4.73303
r26 6 8 131
r27 3 14 4.73303
r28 3 5 33.5
.ends

.subckt PM_CLKGEN_NET14 8 13 26 29
c0 46 0 0.15149f
c1 37 0 0.0803814f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.253467f
c7 11 0 0.412269f
c8 10 0 0.00819556f
c9 6 0 0.0424882f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_CLKGEN_NET13 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.0851435f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.25728f
c7 11 0 0.413435f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_CLKGEN_NET12 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.0851435f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.25728f
c7 11 0 0.413435f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_CLKGEN_NET11 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.0851435f
c2 35 0 0.102857f
c3 33 0 0.138678f
c4 29 0 0.337173f
c5 24 0 0.103783f
c6 16 0 0.25728f
c7 11 0 0.413435f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_CLKGEN_NET10 8 13 26 29
c0 46 0 0.160863f
c1 37 0 0.107623f
c2 35 0 0.106102f
c3 33 0 0.141818f
c4 29 0 0.349351f
c5 24 0 0.111005f
c6 16 0 0.257309f
c7 11 0 0.413506f
c8 10 0 0.00819556f
c9 6 0 0.0403666f
r10 46 49 0.0363174
r11 37 49 0.0832
r12 37 38 8
r13 33 38 0.0752128
r14 32 35 6.20426
r15 32 33 13.2552
r16 27 35 4.73303
r17 27 29 131
r18 24 35 4.73303
r19 24 26 33.5
r20 15 16 8.16635
r21 13 15 2.304
r22 10 11 2.72212
r23 8 10 0.768
r24 7 46 0.09542
r25 6 7 8
r26 4 11 0.407
r27 4 6 0.0397132
r28 3 16 0.269
r29 3 6 0.0397132
.ends

.subckt PM_CLKGEN_CLKOUT 8 13 32 36 40
c0 50 0 0.140614f
c1 49 0 0.272296f
c2 45 0 0.108406f
c3 40 0 0.294172f
c4 36 0 0.307464f
c5 32 0 0.164531f
c6 26 0 0.497218f
c7 25 0 0.0499095f
c8 24 0 1.04324f
c9 16 0 0.195596f
c10 11 0 0.278148f
c11 6 0 0.0383468f
r12 49 50 8
r13 46 50 0.0752128
r14 45 46 13.2552
r15 42 45 6.43404
r16 38 42 4.25716
r17 38 40 77.85
r18 34 42 4.25716
r19 34 36 92.7
r20 30 49 0.2847
r21 26 32 0.0275239
r22 25 30 0.0363174
r23 24 32 0.00715299
r24 24 25 1.55675
r25 15 16 8.16635
r26 13 15 2.304
r27 10 11 2.72212
r28 8 10 0.768
r29 7 26 0.2847
r30 6 7 8
r31 4 11 0.407
r32 4 6 0.0397132
r33 3 16 0.269
r34 3 6 0.0397132
.ends

.subckt PM_CLKGEN_VSS 7 15 38 61 84 107 130 172 184
c0 187 0 0.101988f
c1 176 0 0.0182116f
c2 175 0 0.303766f
c3 172 0 1.43176f
c4 133 0 0.172919f
c5 128 0 0.0438059f
c6 121 0 3.86924e-19
c7 110 0 0.162432f
c8 105 0 0.0271566f
c9 98 0 3.86924e-19
c10 87 0 0.16243f
c11 82 0 0.0271466f
c12 75 0 3.86924e-19
c13 64 0 0.16243f
c14 59 0 0.0271466f
c15 52 0 3.86924e-19
c16 41 0 0.16243f
c17 36 0 0.0271466f
c18 29 0 3.86924e-19
c19 18 0 0.138102f
c20 13 0 0.0271466f
c21 7 0 0.00498957f
c22 6 0 4.23269e-19
r23 186 187 4.08318
r24 184 186 1.152
r25 175 180 0.0319487
r26 175 176 0.00997344
r27 174 187 0.279
r28 174 176 0.0338099
r29 170 172 0.0802906
r30 169 170 0.129231
r31 168 169 0.129231
r32 167 168 0.129231
r33 166 167 0.129231
r34 165 166 0.129231
r35 164 176 0.00997344
r36 164 165 0.0774786
r37 163 170 0.0457181
r38 162 169 0.0457181
r39 161 168 0.0457181
r40 160 167 0.0457181
r41 159 166 0.0457181
r42 158 165 0.0457181
r43 132 133 8.16635
r44 130 132 2.286
r45 120 128 0.1032
r46 120 121 0.00770322
r47 119 133 0.215
r48 119 121 0.0296412
r49 118 121 0.0296412
r50 118 163 0.098
r51 109 110 8.16635
r52 107 109 2.286
r53 97 105 0.1032
r54 97 98 0.00770322
r55 96 110 0.215
r56 96 98 0.0296412
r57 95 98 0.0296412
r58 95 162 0.098
r59 86 87 8.16635
r60 84 86 2.286
r61 74 82 0.1032
r62 74 75 0.00770322
r63 73 87 0.215
r64 73 75 0.0296412
r65 72 75 0.0296412
r66 72 161 0.098
r67 63 64 8.16635
r68 61 63 2.286
r69 51 59 0.1032
r70 51 52 0.00770322
r71 50 64 0.215
r72 50 52 0.0296412
r73 49 52 0.0296412
r74 49 160 0.098
r75 40 41 8.16635
r76 38 40 2.286
r77 28 36 0.1032
r78 28 29 0.00770322
r79 27 41 0.215
r80 27 29 0.0296412
r81 26 29 0.0296412
r82 26 159 0.098
r83 17 18 8.16635
r84 15 17 2.286
r85 7 180 5.44423
r86 7 128 8.16635
r87 7 105 8.16635
r88 7 82 8.16635
r89 7 59 8.16635
r90 7 36 8.16635
r91 7 13 8.16635
r92 5 13 0.1032
r93 5 6 0.00770322
r94 4 18 0.215
r95 4 6 0.0296412
r96 3 6 0.0296412
r97 3 158 0.098
.ends

.subckt PM_CLKGEN_VDD 3 4 20 36 52 68 84 136 139 144
c0 147 0 0.297056f
c1 146 0 0.0394557f
c2 142 0 0.309857f
c3 139 0 0.0646861f
c4 136 0 1.46392f
c5 122 0 0.30404f
c6 87 0 0.382256f
c7 84 0 0.0101617f
c8 71 0 0.366301f
c9 68 0 0.0101617f
c10 55 0 0.366295f
c11 52 0 0.0101617f
c12 39 0 0.366295f
c13 36 0 0.0101617f
c14 23 0 0.366296f
c15 20 0 0.0101617f
c16 7 0 0.298669f
c17 4 0 0.0101617f
r18 159 160 0.0457181
r19 155 156 0.0457181
r20 151 159 0.0424188
r21 151 155 0.0425385
r22 147 160 0.279
r23 146 147 2.72212
r24 144 146 0.768
r25 142 156 0.279
r26 141 142 2.72212
r27 139 141 0.762
r28 122 159 0.0104701
r29 122 123 0.0774786
r30 121 133 0.0457181
r31 120 131 0.0457181
r32 119 129 0.0457181
r33 118 127 0.0457181
r34 117 125 0.0457181
r35 116 123 0.0457181
r36 93 136 0.0384701
r37 93 133 0.0413419
r38 87 121 0.279
r39 86 87 2.72212
r40 84 86 0.762
r41 77 133 0.0878889
r42 77 131 0.0413419
r43 71 120 0.279
r44 70 71 2.72212
r45 68 70 0.762
r46 61 131 0.0878889
r47 61 129 0.0413419
r48 55 119 0.279
r49 54 55 2.72212
r50 52 54 0.762
r51 45 129 0.0878889
r52 45 127 0.0413419
r53 39 118 0.279
r54 38 39 2.72212
r55 36 38 0.762
r56 29 127 0.0878889
r57 29 125 0.0413419
r58 23 117 0.279
r59 22 23 2.72212
r60 20 22 0.762
r61 13 125 0.0878889
r62 13 123 0.0413419
r63 7 116 0.279
r64 6 7 2.72212
r65 4 6 0.762
r66 3 151 5.44423
r67 3 93 8.16635
r68 3 77 8.16635
r69 3 61 8.16635
r70 3 45 8.16635
r71 3 29 8.16635
r72 3 13 8.16635
.ends

.subckt PM_CLKGEN_XI1.NET18 1 2
r0 1 2 2.295
.ends

