* File: inv.pex.spi.pex
* Created: Mon Oct 30 15:14:36 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_A 5 9 18
c0 21 0 0.0623715f
c1 15 0 0.100795f
c2 13 0 0.136541f
c3 9 0 0.178254f
c4 5 0 0.170829f
r5 21 22 8
r6 18 21 0.02028
r7 13 22 0.0752128
r8 12 15 6.20426
r9 12 13 13.2552
r10 7 15 4.73303
r11 7 9 86.5
r12 3 15 4.73303
r13 3 5 66
.ends

.subckt PM_INV_OUT 11 16 24
c0 24 0 0.0624931f
c1 19 0 0.180759f
c2 14 0 0.309953f
c3 10 0 0.0639987f
c4 5 0 0.039956f
r5 18 19 8.16635
r6 16 18 2.304
r7 13 14 2.72212
r8 11 13 0.768
r9 9 14 0.407
r10 9 10 0.0375995
r11 8 19 0.221
r12 8 10 0.0375995
r13 6 24 0.02392
r14 5 6 8
r15 3 10 0.001755
r16 3 5 0.0463191
.ends

.subckt PM_INV_VSS 6 11 18
c0 21 0 0.117186f
c1 16 0 0.0259839f
c2 10 0 2.51664e-19
c3 6 0 0.147688f
c4 4 0 0.118096f
c5 3 0 0.0338332f
r6 20 21 8.16635
r7 18 20 2.286
r8 11 16 8.16635
r9 9 16 0.1032
r10 9 10 0.00770322
r11 8 21 0.215
r12 8 10 0.0296412
r13 4 6 0.0708974
r14 3 10 0.0296412
r15 2 4 0.0561881
r16 2 3 0.098
.ends

.subckt PM_INV_VDD 4 5 18
c0 18 0 0.1833f
c1 8 0 0.292221f
c2 2 0 0.113943f
r3 14 18 0.0400256
r4 7 8 2.72212
r5 5 7 0.762
r6 4 14 8.16635
r7 3 8 0.279
r8 2 14 0.0308718
r9 2 3 0.0561881
.ends

