* File: nand2.pex.spi.pex
* Created: Mon Oct 30 15:27:30 2023
* Program "Calibre xRC"
* Version "v2016.4_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_A 5 9 18
c0 21 0 0.0565268f
c1 15 0 0.111284f
c2 13 0 0.160968f
c3 9 0 0.27791f
c4 5 0 0.276153f
r5 21 22 8
r6 18 21 0.02028
r7 13 22 0.0752128
r8 12 15 6.39574
r9 12 13 13.2552
r10 7 15 4.25716
r11 7 9 77.85
r12 3 15 4.25716
r13 3 5 81.9
.ends

.subckt PM_NAND2_VOUT 10 11 15 22
c0 22 0 0.0469229f
c1 18 0 0.138004f
c2 14 0 0.664763f
c3 5 0 0.146322f
r4 17 18 4.08318
r5 15 17 1.143
r6 13 14 2.72212
r7 11 13 0.768
r8 10 13 0.762
r9 8 22 8
r10 6 14 0.537
r11 5 8 0.000175
r12 5 6 0.00871254
r13 4 18 0.207
r14 4 5 0.12425
.ends

.subckt PM_NAND2_B 5 9 22
c0 22 0 0.0565268f
c1 19 0 0.133513f
c2 14 0 0.108242f
c3 9 0 0.27791f
c4 5 0 0.264484f
r5 18 22 0.02457
r6 18 19 8
r7 15 19 0.0752128
r8 14 15 13.2552
r9 11 14 6.43404
r10 7 11 4.25716
r11 7 9 77.85
r12 3 11 4.25716
r13 3 5 81.9
.ends

.subckt PM_NAND2_VSS 6 8 15
c0 18 0 0.106388f
c1 6 0 0.113943f
c2 2 0 0.247746f
r3 17 18 4.08318
r4 15 17 1.152
r5 8 11 5.44423
r6 4 18 0.279
r7 3 6 0.0400855
r8 3 4 0.0457181
r9 2 11 0.0319487
r10 2 3 0.0104701
.ends

.subckt PM_NAND2_VDD 2 3 8 26
c0 26 0 0.343752f
c1 11 0 0.279339f
c2 6 0 0.279339f
r3 23 26 0.0400855
r4 23 24 0.0457181
r5 19 20 0.0457181
r6 15 23 0.0424188
r7 15 19 0.0425385
r8 11 24 0.279
r9 10 11 2.72212
r10 8 10 0.768
r11 6 20 0.279
r12 5 6 2.72212
r13 3 5 0.762
r14 2 15 5.44423
.ends

.subckt PM_NAND2_NET18 1 2
r0 1 2 2.295
.ends

